data/oMe_Silver.jsonl
{"reaction_id": "NR-101_1-c3ccc(F)cc3_2-c3ccc(C(F)(F)F)cc3","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(c3ccc(F)cc3)(c3ccc(C(F)(F)F)cc3)","BrBr"],"products_smiles": ["C(Br)CC(c3ccc(F)cc3)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(c3ccc(F)cc3)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(c3ccc(F)cc3)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(c3ccc(F)cc3)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-053_1-c1ccccc1_2-c1ccccc1_3-c1ccccc1_4-CCCC(C)C","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","OO"],"products_smiles": ["Oc1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(c1ccccc1)cc(c1ccccc1)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
